US04362728
A mixture of 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-[(2-phthalimidoethyl)thiomethyl]pyrimidine (5.4 g.), ethanol (30 ml.) and 99% hydrazine hydrate (3 ml.) was heated under reflux for 1 hour and then evaporated to dryness. The residue was stirred with N hydrochloric acid and then filtered and the filtrate basified with 17 N NaOH. The mixture was extracted with ether, and the ether extracts dried and evaporated to dryness to give 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[(2-aminoethyl)thiomethyl]pyrimidine (2.93 g.) which was used without further purification.

reactant | 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-[(2-phthalimidoethyl)thiomethyl]pyrimidine | 5.4 g | FC(CN=C(NC1=NC(=NC=C1)CSCCN1C(C=2C(C1=O)=CC=CC2)=O)N)(F)F | C18H17F3N6O2S
reactant | hydrazine hydrate | 3 ml | O.NN
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[(2-aminoethyl)thiomethyl]pyrimidine | 2.93 g | FC(CN=C(NC1=NC(=NC=C1)CSCCN)N)(F)F | C10H15F3N6S
